US07365085B2
a) 6-Morpholin-4-yl-pyridin-2-ol
To a stirring solution of morpholine (10 ml) was added 6-chloro-2-pyridinol (1.5 g, 11.57 mmol) and the mixture was heated at 90° C. for 60 h. The reaction mixture was cooled to RT and concentrated under reduced pressure (while heating) to afford the title compound as a brown solid (85%. The crude material was used without further purification. MS (ESI) 181.2 (M+H+).

reactant | 6-chloro-2-pyridinol | 11.57 mmol, 1.5 g | ClC1=CC=CC(=N1)O | C5H4ClNO
reactant | morpholine | 10 ml | N1CCOCC1 | C4H9NO
product | 6-Morpholin-4-yl-pyridin-2-ol | N1(CCOCC1)C1=CC=CC(=N1)O | C9H12N2O2
